US08084448B2
B. 5-[2-Benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
Zinc dust (0.69 g, 10.66 mmol) is placed in a round bottom flask and heated under vacuum to remove traces of water. After cooling, DMF (3 mL) is added, followed by 1,2-dibromoethane (0.061 mL, 0.708 mmol). The solution is heated until effervescence occurs, then cooled under N2. To the solution is added TMSCl (0.135 mL, 1.06 mmol). A solution of (S)-5-iodomethylpyrrolidin-2-one (0.40 g, 1.78 mmol) in DMF (5 mL) is added to the mixture and stirred until TLC indicates the absence of starting material. Pd2(dba)3 (0.043 g, 0.047 mmol) and tri-o-tolylphosphine (0.11 g, 0.365 mmol) are added, followed by the dropwise addition of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (0.645 g, 1.18 mmol) in DMF (10 mL). The mixture is stirred at RT for 4 h, then heated to 45° C. and stirred for 18 h. The mixture is allowed to cool to RT and diluted with water. A yellow precipitate forms after the addition of water. The precipitate is filtered, washed with water and dried under reduced pressure to afford the title compound: (M+H)+=516.

reactant | 1,2-dibromoethane | 0.708 mmol, 0.061 mL | BrCCBr | C2H4Br2
reactant | TMSCl | 1.06 mmol, 0.135 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | (S)-5-iodomethylpyrrolidin-2-one | 1.78 mmol, 0.40 g | IC[C@@H]1CCC(N1)=O | C5H8INO
reactant | tri-o-tolylphosphine | 0.365 mmol, 0.11 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1.18 mmol, 0.645 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zinc | 10.66 mmol, 0.69 g | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.047 mmol, 0.043 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-[2-Benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C[C@H]1NC(CC1)=O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C25H33N3O5SSi
